US04347232
Bis-(dibenzylidene acetone) palladium (0.10 g; 0.17 mmole) was dissolved in methylene chloride (100 ml), and the solution filtered on a millepore filter to remove elemental palladium. Dibenzylidene acetone (0.51 mmole) was added to the solution, and the solution was stirred for 24 hours at ambient temperature. The solution was then evaporated to yield purple crystals of the tris-(dibenzylidene acetone) palladium product.

reactant | Bis-(dibenzylidene acetone) palladium | 0.17 mmole, 0.10 g | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
reactant | Dibenzylidene acetone | 0.51 mmole | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | C17H14O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tris-(dibenzylidene acetone) palladium | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | InChI=1S/3C17H14O.Pd/c3*18-17(13-11-15-7-3-1-4-8-15)14-12-16-9-5-2-6-10-16;/h3*1-14H;
